US05455252
4-benzyl-2-bromo-aniline and 4-chlorobenzene boronic acid were combined to form 4-benzyl-2-(4-chlorophenyl)aniline.

reactant | 4-benzyl-2-bromo-aniline | C(C1=CC=CC=C1)C1=CC(=C(N)C=C1)Br | C13H12BrN
reactant | 4-chlorobenzene boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 4-benzyl-2-(4-chlorophenyl)aniline | C(C1=CC=CC=C1)C1=CC(=C(N)C=C1)C1=CC=C(C=C1)Cl | C19H16ClN
